US07238724B2
6-(2-Amino-2-methyl-propylamino)-nicotinonitrile
A mixture of 1,2-diamino-2-methylpropane(3.14 mL, 30 mmol), and 6-chloronicotinonitrile (2.77 g, 20 mmol) were heated to 120° C. for 2 days. The reaction mixture was filtered, and the inorganic salt was rinsed with EtOAc. The filtrate was concentrated under reduced pressure to provide the titled compound as a pale yellow solid. MS (DCI) m/z 191 (M+H)+.

reactant | 1,2-diamino-2-methylpropane | 30 mmol, 3.14 mL | NCC(C)(C)N | C4H12N2
reactant | 6-chloronicotinonitrile | 20 mmol, 2.77 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(2-Amino-2-methyl-propylamino)-nicotinonitrile | NC(CNC1=NC=C(C#N)C=C1)(C)C | C10H14N4
